US07576091B2
4-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamino)-phenol
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (200 mg, 7.6 mmol), N-(4-hydroxy-phenyl)-guanidine nitrate (163 mg, 7.6 mmol), NaOH, (30 mg, 7.6 mmol), and 2-methoxyethanol (2 mL) was heated at 120° C. for 24 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (20% EtOAc:hexane) gave the title product as a yellow solid (70 mg, 30%): mp 268-269° C. Anal. RP-HPLC: tR 12.4 min (10-70% MeCN, purity 95%). 1H-NMR (DMSO-d6): δ 9.28 (s, 1H, OH/NH), 9.07 (s, 1H, OH/NH), 8.30 (s, 1H, Py-H), 7.58 (d, 2H, J 8.9, Ph-H), 6.75 (d, 2H, J 8.9, Ph-H), 3.02 (m, 4H, CH2—CH2), 2.80 (s, 3H, CH3). 13C-NMR (DMSO-d6): δ 168.94, 159.64, 159.13, 156.26, 155.73, 152.35, 132.70, 120.94, 115.44, 115.19, 25.13, 23.45, 19.79. MS (ESI+): m/z 311.06 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 7.6 mmol, 200 mg | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | N-(4-hydroxy-phenyl)-guanidine nitrate | 7.6 mmol, 163 mg | [N+](=O)(O)[O-].OC1=CC=C(C=C1)NC(=N)N
reactant | NaOH | 7.6 mmol, 30 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | 4-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamino)-phenol | 70 mg, 30% | CC=1SC2=C(CCC=3C=NC(=NC23)NC2=CC=C(C=C2)O)N1 | C16H14N4OS
